US08003647B2
Cyano-(4-fluoro-5-methyl-2-nitrophenyl)acetic acid benzyl ester
A suspension of 1,4-difluoro-2-methyl-5-nitrobenzene (1.00 g), cyanoacetic acid benzyl ester (1.01 g) and potassium carbonate (1.76 g) in N,N-dimethylformamide (20.0 mL) was stirred at 60° C. for 1 day. To this reaction mixture was added 1 mol/L hydrochloric acid (25.4 mL), and this mixture was extracted with diethyl ether. This organic layer was washed with brine, and dried over anhydrous magnesium sulfate, and filtered. The solvent was removed under reduced pressure. This residue was washed with ethanol to give the title compound (1.54 g).

reactant | 1,4-difluoro-2-methyl-5-nitrobenzene | 1.00 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)C | C7H5F2NO2
reactant | cyanoacetic acid benzyl ester | 1.01 g | C(C1=CC=CC=C1)OC(CC#N)=O | C10H9NO2
reactant | potassium carbonate | 1.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 mol/L, 25.4 mL | Cl | ClH
solvent | N,N-dimethylformamide | 20.0 mL | CN(C=O)C | C3H7NO
product | Cyano-(4-fluoro-5-methyl-2-nitrophenyl)acetic acid benzyl ester | 1.54 g | C(C1=CC=CC=C1)OC(C(C1=C(C=C(C(=C1)C)F)[N+](=O)[O-])C#N)=O | C17H13FN2O4
